US09193693B2
Step 1. Methyl 2-(4-(4-chlorophenyl)piperidin-1-yl)-3-(4-fluorophenyl)quinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed a solution of methyl 2-chloro-3-(4-fluorophenyl)quinoxaline-6-carboxylate (150 mg, 0.47 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), 4-(4-chlorophenyl)piperidine hydrochloride (219 mg, 0.94 mmol, 2.00 equiv), potassium carbonate (326 mg, 2.36 mmol, 5.00 equiv). The resulting solution was stirred overnight at 100° C. in an oil bath. The reaction was then quenched by the addition of 20 mL of water. The resulting solution was extracted with dichloromethane/methanol (10:1) and the organic layers were combined. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). This resulted in 200 mg (89%) of methyl 2-(4-(4-chlorophenyl)piperidin-1-yl)-3-(4-fluorophenyl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 2-chloro-3-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.47 mmol, 150 mg, 1.00 equiv | ClC1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)F)C(=O)OC | C16H10ClFN2O2
reactant | 4-(4-chlorophenyl)piperidine hydrochloride | 0.94 mmol, 219 mg, 2.00 equiv | Cl.ClC1=CC=C(C=C1)C1CCNCC1
reactant | potassium carbonate | 2.36 mmol, 326 mg, 5.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 2-(4-(4-chlorophenyl)piperidin-1-yl)-3-(4-fluorophenyl)quinoxaline-6-carboxylate | ClC1=CC=C(C=C1)C1CCN(CC1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)F)C(=O)OC | C27H23ClFN3O2
